US03953499
A mixture of 5.0 g. of 1-bromo-4-metyl-3-nonene and 6.35 g. of triphenylphosphine in 25 ml. of dry benzene is heated under reflux for 12 hrs., then the mixture is allowed to cool to 25°C. and 50 ml. of dry ether and 11 ml. of 15% n-butyl lithium in hexane are added. The resulting mixture is stirred for 2 hrs. at 25°C., giving a red solution, then 2.5 g. (2.15 ml.) of methyl pyruvate in 10 ml. of ether is added and the mixture is stirred at room temperature (about 25°C.) for 18 hrs. The solvents are then removed by evaporation under reduced pressure and the resulting residue is dissolved in methylene chloride and chromatographed over silica gel. Elution with 5,10 and 20% ethyl acetate in cyclohexane and evaporation of the eluate fractions gives a residue comprising methyl 2,6-dimethyl-2,5-undecadienoate.

reactant | 1-bromo-4-metyl-3-nonene | BrCCC=C(CCCCC)C | C10H19Br
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl pyruvate | 2.15 ml | C(C(=O)C)(=O)OC | C4H6O3
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 2,6-dimethyl-2,5-undecadienoate | CC(C(=O)OC)=CCC=C(CCCCC)C | C14H24O2
